US08193359B2
2-(3-((1-(3-Methoxypyridin-2-yl)piperidin-4-yl)methyl)-[1,2,4]-oxadiazol-5-yl)furo[3,2-c]pyridine
2-(3-Piperidin-4-ylmethyl-[1,2,4]oxadiazol-5-yl)furo[3,2-c]pyridine (Preparation 12, 50 mg, 0.176 mmol) and 3-methoxy-2-nitropyridine (41 mg, 0.264 mmol) were shaken in DMSO (1 mL) at 100° C. for 20 h. The reaction mixture was allowed to cool to room temperature, before being acidified with AcOH. Purification by RP-HPLC yielded the title compound: RT=4.99 min; m/z (ES+)=392.4 [M+H]+.

reactant | 2-(3-Piperidin-4-ylmethyl-[1,2,4]oxadiazol-5-yl)furo[3,2-c]pyridine | 0.176 mmol, 50 mg | N1CCC(CC1)CC1=NOC(=N1)C1=CC=2C=NC=CC2O1 | C15H16N4O2
reactant | 3-methoxy-2-nitropyridine | 0.264 mmol, 41 mg | COC=1C(=NC=CC1)[N+](=O)[O-] | C6H6N2O3
reactant | AcOH | CC(=O)O | C2H4O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2-(3-((1-(3-Methoxypyridin-2-yl)piperidin-4-yl)methyl)-[1,2,4]-oxadiazol-5-yl)furo[3,2-c]pyridine | COC=1C(=NC=CC1)N1CCC(CC1)CC1=NOC(=N1)C1=CC=2C=NC=CC2O1 | C21H21N5O3
